US05244908
To a solution of 2-(phenoxy)ethanol (1.35 g, 9.78 mmoles) and triethylamine (2.04 ml, 14.7 mmoles) in methylene chloride (30 ml) was added methanesulfonyl chloride (0.91 ml, 12 mmoles) with stirring under ice-cooling and the mixture was further stirred under ice-cooling for 10 minutes. The reaction solution was washed with water and the aqueous layer was extracted with methylene chloride (30 ml×3). The methylene chloride layers were combined and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was subjected to column chromatography [eluent: hexane/methyl (1:1)] to obtain crude 1-methanesulfonyloxy-2-(phenoxy)ethane as a pale yellow oily product.

reactant | 2-(phenoxy)ethanol | 9.78 mmoles, 1.35 g | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | triethylamine | 14.7 mmoles, 2.04 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 12 mmoles, 0.91 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-methanesulfonyloxy-2-(phenoxy)ethane | CS(=O)(=O)OCCOC1=CC=CC=C1 | C9H12O4S
